US05830840
Moc-Phe-Gly-Ala-Leu-H (7)
29.9 g (70.7 mol) of Dess-Martin periodinane was suspended in 500 ml CH2Cl2 and stirred for 10 min. Moc-Phe-Gly-Ala-Leucinol (10.6 g, 23.5 mol) was dissolved in 100 ml CH2Cl2 and added at a moderate rate to the periodinane slurry. The mixture was stirred for 1h and poured into 150 ml NaHCO3 containing 123 g Na2S2 O3. The mixture was allowed to stir for 15 min and extracted with EtOAc. The organic phase was dried and filtered followed by removal of solvent. Chromatography (3.5% MeOH/CH2Cl2) on silica gave 5.1 g of pure white solid that is a mixture of the methoxy hemiacetal and aldehyde. 13C NMR (CDCl3,CD3OD) 17.62, 17.94, 21.53, 21.71, 22.99, 23.30, 23.39, 24.54, 37.05, 37.70, 37.92, 38.24, 42.87, 49.83, 51.79, 52.14, 52.40, 56.75, 57.19, 98.40, 99.18, 127.00, 128.60, 129.06, 136.44, 157.27, 169.19, 169.67, 172.73, 173.40, 200.43.

reactant | Dess-Martin periodinane | 70.7 mol, 29.9 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Phe-Gly-Ala Leucinol | 23.5 mol, 10.6 g | N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](C)C(=O)O.N[C@@H](CC(C)C)CO
reactant | NaHCO3 | 150 ml, 123 g | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | Phe-Gly-Ala-Leu-H | 5.1 g | N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C=O | C20H30N4O4
